US07700583B2
N-[4-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-isonicotinamide
To a solution of (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone (400 mg, 1.47 mmol) in dry THF (25 ml) was added dropwise a solution of isonicotinoyl chloride (312 mg, 2.20 mmol) in dry THF (20 ml). The mixture was stirred for 2 hrs. and evaporated followed by addition of water 20 (ml). The aqueous phase was extracted with EtOAc (2×20 ml) and the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. The resulting residue was purified by column chromatography (silica gel) using first EtOAc (300 ml) followed by a 4% mixture of TEA in EtOAc as eluents. Pure fractions were collected and evaporated to dryness. The residue was crystallized from a mixture of diethyl ether (20 ml) and EtOAc (5 ml) affording after filtering and drying in vacuo at 50° C. 200 mg (36%) of the title compound as a solid.

reactant | (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone | 1.47 mmol, 400 mg | NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C17H24N2O
reactant | isonicotinoyl chloride | 2.20 mmol, 312 mg | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-[4-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-isonicotinamide | CC12CC(CC(N(C1)C(=O)C1=CC=C(C=C1)NC(C1=CC=NC=C1)=O)C2)(C)C | C23H27N3O2
